US04776929
114.1 g of trimethylethylammonium monomethylcarbonate and 75.6 g of water were introduced in the same reactor as used in Preparation Example 1 and heated with stirring. After the temperature in the reactor reached 120° C., the reaction was continued for 3 hours at 120° C. Trimethylethylammonium hydrogencarbonate was obtained in a yield of 96.3 mol %.

reactant | trimethylethylammonium monomethylcarbonate | 114.1 g | COC([O-])=O.C[N+](CC)(C)C
solvent | water | 75.6 g | O | H2O
product | Trimethylethylammonium hydrogencarbonate | C(O)([O-])=O.C[N+](CC)(C)C | InChI=1S/C5H14N.CH2O3/c1-5-6(2,3)4;2-1(3)4/h5H2,1-4H3;(H2,2,3,4)/q+1;/p-1
